US20010020034A1
A mixture of (4-Cyano-3-pentylsulfanyl-isothiazol-5-yl)-carbamic acid ethyl ester (2.7 g, 9.0 mmol) and concentrated sulfuric acid (5 mL) was heated to 100° C. for 6 hours. After cooling to ambient temperature, the mixture was diluted with ice water, extracted three times with ethyl acetate, and the combined organic layers were dried over Na2SO4, filtered and concentrated in vacuo, affording 2.2 g (100%) of 5-amino-3-pentylsulfanyl-isothiazole-4-carboxylic acid amide as a yellow oil. 1H NMR (400 MHz, CDCl3) δ 3.26 (t, 2 H, J=7.2 Hz), 1.71 (m, 2H), 1.43-1.19 (m, 4H), 0.88 (t, 3H, J=6.8 Hz) ppm.

reactant | (4-Cyano-3-pentylsulfanyl-isothiazol-5-yl)-carbamic acid ethyl ester | 9.0 mmol, 2.7 g | C(C)OC(NC1=C(C(=NS1)SCCCCC)C#N)=O | C12H17N3O2S2
reactant | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
product | 5-amino-3-pentylsulfanyl-isothiazole-4-carboxylic acid amide | 2.2 g, 100% | NC1=C(C(=NS1)SCCCCC)C(=O)N | C9H15N3OS2
